US07642264B2
5-{3-[4-(4-Chloro-phenyl)-6-methyl-pyridin-2-yl]-phenyl}-pyridin-2-ylamine
The title compound was prepared from 2-(3-bromo-phenyl)-4-(4-chloro-phenyl)-6-methyl-pyridine (example E.32) (0.15 g, 0.42 mmol) and commercially available 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (0.101 g, 0.46 mmol) according to the general procedure VI. Obtained as a white solid (0.045 g, 29%). MS (ISP) 372.1 [(M+H)+] and 374 [(M+2+H)+]; mp 76-95° C.

reactant | 2-(3-bromo-phenyl)-4-(4-chloro-phenyl)-6-methyl-pyridine | 0.42 mmol, 0.15 g | BrC=1C=C(C=CC1)C1=NC(=CC(=C1)C1=CC=C(C=C1)Cl)C | C18H13BrClN
reactant | 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.46 mmol, 0.101 g | NC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C11H17BN2O2
product | 5-{3-[4-(4-Chloro-phenyl)-6-methyl-pyridin-2-yl]-phenyl}-pyridin-2-ylamine | ClC1=CC=C(C=C1)C1=CC(=NC(=C1)C)C=1C=C(C=CC1)C=1C=CC(=NC1)N | C23H18ClN3
